US04159380
(c) 5-Chloromethyl-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine, hydrochloride (1:1)
To 11 g. of 1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyridine-5-methanol (0.057 mol.), dissolved in 50 ml. of anhydrous benzene are added dropwise 55 ml. of thionyl chloride. A white suspension formed by this reaction is stirred for an additional three hours at room temperature. Then the slurry is sucked off, washed with benzene and dried at 70°, yield: 6.6 g. of 5-chloromethyl-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride (1:1); m.p. 154°-157°.

reactant | 1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyridine-5-methanol | 0.057 mol | C(C)N1N=C(C=2C1=NC=C(C2)CO)C | C10H13N3O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-Chloromethyl-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine, hydrochloride | Cl.ClCC=1C=C2C(=NC1)N(N=C2C)CC | InChI=1S/C10H12ClN3.ClH/c1-3-14-10-9(7(2)13-14)4-8(5-11)6-12-10;/h4,6H,3,5H2,1-2H3;1H
